US08802659B2
3-(3-(6-((trans)-4-tert-butylcyclohexyloxy)naphthalen-2-yl)oxetan-3-ylamino)propanoic acid
A solution of 3-{3-[6-(4-tert-Butyl-cyclohexyloxy)-naphthalen-2-yl]-oxetan-3-ylamino}-propionic acid methyl ester (18.0 mg, 0.0409 mmol) and Lithium hydroxide (6.41 mg, 0.268 mmol) in Tetrahydrofuran (0.6 mL, 8 mmol) and Water (0.2 mL, 9 mmol) was stirred at r.t. overnight. LCMS showed a single desired product peak M+Na at m/z 448.20, RT 1.56 min. The solvent was concentrated and neutralized with citric acid and concentrated and purified on HPLC to give product (5.8 mg, 33%). 1H NMR (400 MHz, MeOD) δ=7.91 (d, J=8.4 Hz, 1H), 7.87 (s, 1H), 7.83 (d, J=8.9 Hz, 1H), 7.38 (d, J=8.2 Hz, 1H), 7.31 (s, 1H), 7.20 (d, J=6.8 Hz, 1H), 5.26 (d, J=7.9 Hz, 2H), 5.13 (d, J=7.7 Hz, 2H), 4.43-4.32 (m, 1H), 3.05 (t, J=5.1 Hz, 2H), 2.70-2.62 (m, 2H), 2.27 (d, J=11.2 Hz, 2H), 1.96-1.85 (m, 2H), 1.50-1.35 (m, 2H), 1.34-1.18 (m, 2H), 1.17-1.04 (m, 1H), 0.91 (s, 9H).

reactant | 3-{3-[6-(4-tert-Butyl-cyclohexyloxy)-naphthalen-2-yl]-oxetan-3-ylamino}-propionic acid methyl ester | 0.0409 mmol, 18.0 mg | COC(CCNC1(COC1)C1=CC2=CC=C(C=C2C=C1)OC1CCC(CC1)C(C)(C)C)=O | C27H37NO4
reactant | Lithium hydroxide | 0.268 mmol, 6.41 mg | [OH-].[Li+]
reactant | Tetrahydrofuran | 8 mmol, 0.6 mL | O1CCCC1 | C4H8O
reactant | Water | 9 mmol, 0.2 mL | O | H2O
product | 3-(3-(6-((trans)-4-tert-butylcyclohexyloxy)naphthalen-2-yl)oxetan-3-ylamino)propanoic acid | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)C1(COC1)NCCC(=O)O | C26H35NO4
